US07947738B2
(15-b) Tert-butyl(±)-(1S,5R)-3-allylbicyclo[3.2.0]hept-3-en-6-ylideneacetate
4-Allylhepta-2,6-dienoic acid (2.00 g, 12.0 mmol) was dissolved in benzene (5 mL). To the solution, oxalyl chloride (7.01 g, 55.2 mmol) was added under ice cooling, and the mixture was stirred in this state for 1 hour. The mixture was further stirred at room temperature for 30 minutes, then heated to 80° C., and stirred for 1 hour. Then, the solvent was distilled off under reduced pressure. To the residue, toluene was added, and the solvent was distilled off again under reduced pressure. The residue was dissolved in toluene (20 mL). This solution was added dropwise to a toluene solution (30 mL) of triethylamine (4.41 g, 43.68 mmol) heated in advance to reflux, and the mixture was further stirred for 2.5 hours. The reaction solution was allowed to cool, then diluted with saturated saline and ethyl acetate, and filtered through Xelite. The filtrate was separated into aqueous and organic layers. Then, the organic layer was washed with 1 N hydrochloric acid and saturated saline in this order, then dried over anhydrous magnesium sulfate, and then filtered. This filtrate was added to a reaction solution prepared in advance by adding sodium hydride (>65% oil, 457.1 mg, 12 mmol) to a tetrahydrofuran solution (20 mL) of tert-butyl dimethoxyphosphorylacetate (3.03 g, 12 mmol) under ice cooling, and the mixture was stirred for 1 hour. The solvent was distilled off under reduced pressure to obtain the compound of interest as a pale yellow oil substance (0.63 g, 16%, E/Z mixture).

reactant | 4-Allylhepta-2,6-dienoic acid | 12.0 mmol, 2.00 g | C(C=C)C(C=CC(=O)O)CC=C | C10H14O2
reactant | oxalyl chloride | 55.2 mmol, 7.01 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 43.68 mmol, 4.41 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydride | 12 mmol, 457.1 mg | [H-].[Na+]
reactant | tert-butyl dimethoxyphosphorylacetate | 12 mmol, 3.03 g | COP(=O)(OC)CC(=O)OC(C)(C)C | C8H17O5P
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | Tert-butyl(±)-(1S,5R)-3-allylbicyclo[3.2.0]hept-3-en-6-ylideneacetate | C(C=C)C=1C[C@H]2CC([C@H]2C1)=CC(=O)OC(C)(C)C | C16H22O2
